US06036733
400 g of a commercially available water glass solution having an SiO2 :Na2O ratio of 2:1 and a solids content of 45% by weight, prepared by hydrothermal digestion of sand with sodium hydroxide solution, were dehydrated in a laboratory hot-air spray tower (inlet temperature 220° C., outlet gas temperature 120° C.) to give an amorphous sodium disilicate having an ignition loss of 16.8% by weight at 620° C. 8 g of the amorphous sodium disilicate were then heat-treated for 1 h in a muffle furnace at 620° C. and then rapidly cooled. The X-ray reflections (position and intensity) required for the phase calculation are given in Table 1. According to the above formulae, the percentage distribution among the crystalline phases is:

reactant | water glass | [O-][Si](=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium disilicate | [Si]([O-])([O-])([O-])O[Si]([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/6Na.O7Si2/c;;;;;;1-8(2,3)7-9(4,5)6/q6*+1;-6
